US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-allyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 9 g portion of (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was combined with 11.1 g of tri-n-butyl-2-propenylstannane and 1.69 g of tetrakis(triphenylphosphene) palladium in 40 mL of acetonitrile in a sealable tube. Argon was bubbled through the mixture, the cap replaced, and the reaction heated at 90° for 18 h. Upon cooling, the mixture was filtered and the filtrate was concentrated under vacuum. The residue was triturated with diethyl ether to obtain 4.23 g of crystalline product, and a second crop of 1.31 g of product was also obtained. mp 144°-146°. FDMS 255 M+. Calcd for C17H21N1O2 :

reactant | (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | tri-n-butyl-2-propenylstannane | 11.1 g | C(CCC)[Sn](CC=C)(CCCC)CCCC
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | (4aR)-(10bR)-4,10b-dimethyl-8-allyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 4.23 g | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)CC=C)C)=O | C18H23NO
